US06403595B1
To a solution of trimethylsulfoxonium iodide (10.56 g) in dimethylsulfoxide (50 ml) was added 60% sodium hydride (1.84 g) in oil, and the mixture was stirred at room temperature for 1 hour. To the mixture was added, under ice-cooling, 1-(6-chloropyrimidine-4-yl)piperidin-4-one (8.50 g), and the mixture was stirred at room temperature for 3 hours. The reaction solution was poured into ice-water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried and concentrated, and the residue was crystallized from diethylether to give colorless crystals of 6-(6-chloropyrimidine-4-yl)-1-oxa-6-azaspiro[2,5]octane (5.67 g).

reactant | trimethylsulfoxonium iodide | 10.56 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 1.84 g | [H-].[Na+]
reactant | 1-(6-chloropyrimidine-4-yl)piperidin-4-one | 8.50 g | ClC1=CC(=NC=N1)N1CCC(CC1)=O | C9H10ClN3O
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 6-(6-chloropyrimidine-4-yl)-1-oxa-6-azaspiro[2,5]octane | 5.67 g | ClC1=CC(=NC=N1)N1CCC2(CO2)CC1 | C10H12ClN3O
